US04259336
(b) 6-Chloro-2-chlorocarbonyl-benzo-[b]-thiophene-3-sulfonic acid chloride
Prepared analogous to Example 1(b) from monosodium 2-carboxy-6-chloro-benzo-[b]-thiophene-3-sulfonate and phosphorus (V)-chloride in the presence of phosphorus oxide trichloride with a yield of 72% of theory. The product, which crystallized upon cooling, was used in the next step without further purification.

reactant | monosodium 2-carboxy-6-chloro-benzo-[b]-thiophene-3-sulfonate | C(=O)(O)C1=C(C2=C(S1)C=C(C=C2)Cl)S(=O)(=O)[O-].[Na+]
reactant | phosphorus (V)-chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxide trichloride | [Cl-].[Cl-].[Cl-].[P+3]=O
product | 6-Chloro-2-chlorocarbonyl-benzo-[b]-thiophene-3-sulfonic acid chloride | yield of 72% | ClC=1C=CC2=C(SC(=C2S(=O)(=O)Cl)C(=O)Cl)C1 | C9H3Cl3O3S2
